US09278944B2
To a solution of 7-hydroxy-1-tetralone (4.05 g) in acetonitrile (75 mL) were added 1-bromo-3-methoxypropane (4.59 g), potassium iodide (415 mg) and potassium carbonate (5.18 g), and the mixture was heated to stir at 80° C. for 23 hours. To the reaction mixture was added water under ice-cooling, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over sodium sulfate, and then concentrated under reduced pressure. The resulting residue was triturated with n-hexane to give 7-(3-methoxypropoxy)-3,4-dihydronaphthalen-1(2H)-one [REx(12-1)] (4.70) as a colorless powder.

reactant | 7-hydroxy-1-tetralone | 4.05 g | OC1=CC=C2CCCC(C2=C1)=O | C10H10O2
reactant | 1-bromo-3-methoxypropane | 4.59 g | BrCCCOC | C4H9BrO
reactant | potassium iodide | 415 mg | [I-].[K+]
reactant | potassium carbonate | 5.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 7-(3-methoxypropoxy)-3,4-dihydronaphthalen-1(2H)-one | COCCCOC1=CC=C2CCCC(C2=C1)=O | C14H18O3
